US04833155
Similarly, by following the procedure of part A above and substituting N-methyl-2-thiocyano-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole for 2-thiocyano-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole, and substituting methyl iodide for ethyl iodide, there is obtained N-methyl-2-methylthio-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole [mp 173°-175° C.; 1H nmr: 1.50s (18H), 2.3s (3H), 3.73s (3H), 5.6s (OH), 6.81m (7.38m (1H), 7.76s (2H)].

reactant | 2-thiocyano-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | S(C#N)C=1NC=C(C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C20H24N2O2S
reactant | ethyl iodide | C(C)I | C2H5I
product | N-methyl-2-methylthio-4-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | CN1C(=CC(=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)SC | C21H29NO2S
